US08222248B2
To a solution of 4-hydroxy-2,6-dimethylbenzaldehyde (100 mg) and 2-chloro-N,N-dimethylacetamide (89 mg) in DMF (2 mL) was added K2CO3 (185 mg) and the mixture was stirred at room temperature for 48 h. The mixture was poured into water and extracted with EtOAc. The organic phase was washed with water (3×) and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using 30% EtOAc/CH2Cl2 as eluent to give 2-(4-formyl-3,5-dimethylphenoxy)-N,N-dimethylacetamide as a solid.

reactant | 4-hydroxy-2,6-dimethylbenzaldehyde | 100 mg | OC1=CC(=C(C=O)C(=C1)C)C | C9H10O2
reactant | 2-chloro-N,N-dimethylacetamide | 89 mg | ClCC(=O)N(C)C | C4H8ClNO
reactant | K2CO3 | 185 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(4-formyl-3,5-dimethylphenoxy)-N,N-dimethylacetamide | C(=O)C1=C(C=C(OCC(=O)N(C)C)C=C1C)C | C13H17NO3
